US04221800
A solution of 5-iodoanthranilic acid (71.1 g; 0.272 mole), sodium hydroxide (11.5 g; 0.275 mole) and sodium nitrite (18.75 g; 0.275 mole) in water (325 ml) was added slowly with stirring to a mixture of concentrated hydrochloric acid (75 ml) and ice (100 g) while the temperature was maintained between 0° and 5° by external cooling and by the addition of ice. After completion of the addition of the nitrite solution, the mixture was stirred for an additional 30 minutes and adjusted to pH 7 with dilute sodium hydroxide solution and potassium acetate. The cold diazonium mixture was added to a vigorously stirred solution of potassium ethyl xanthate (125 g; 0.775 mole) in water (400 ml) preheated to 75°-80°. When the evolution of nitrogen ceased, the reaction mixture was cooled and acidified to pH 3 with concentrated hyrochloric acid. After decanting the aqueous phase, the resulting sludge was dissolved in 10 percent sodium hydroxide solution (200 ml) and heated on a steam bath for two hours. The solution was cooled, filtered, acidified to pH 4-5 with concentrated hydrochloric acid, and the solid collected, washed and dried. The resulting disulfide was refluxed for 16 hours with zinc dust (25 g) in glacial acetic acid (750 ml). The solid was collected, washed with cold water, digested with concentrated hydrochloric acid for 30 minutes, filtered, washed with water and dried to give 5-iodothiosalicyclic acid (61.3 g), m.p. 208°-210°. Treatment of 5-iodothiosalicyclic acid (60 g) with acetic anhydride (300 ml) and concentrated sulfuric acid (1 ml) at 100° for one hour yielded 5-iodoacetylthiosalicylic acid (35.1 g), m.p. 163°14 165°.

reactant | 5-iodoanthranilic acid | 0.272 mole, 71.1 g | IC1=CC=C(C(C(=O)O)=C1)N | C7H6INO2
reactant | sodium hydroxide | 0.275 mole, 11.5 g | [OH-].[Na+]
reactant | sodium nitrite | 0.275 mole, 18.75 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | nitrite | N(=O)[O-]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | potassium ethyl xanthate | 0.775 mole, 125 g | O(C(=S)[S-])CC.[K+]
solvent | water | 325 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 5-iodothiosalicyclic acid | 61.3 g | IC1=CC=C(C(C(=O)O)=C1)S | C7H5IO2S
